US09238640B2
Preparation of 2-(3,5-Dimethoxyphenyl)-6-(pyridin-4-ylamino)quinazolin-4(3H)-one
6-Amino-2-(3,5-dimethoxy-phenyl)-3H-quinazolin-4-one (297 mg, 1.00 mmol), 4-bromopyridine hydrochloride (194 mg, 1.00 mmol), tris(dibenzylideneacetone)dipalladium(0) (18 mg, 0.02 mmol), 1,1′-bis(diphenylphosphino)ferrocene (17 mg, 0.03 mmol), sodium tert-butoxide (230 mg, 2.40 mmol) and pyridine (3 mL) were heated at 140° C. in microwave oven (150 W) for 1 hour. The mixture was concentrated under vacuum to dryness. The residue was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in dichloromethane and then 10% 2 N NH3 in methanol and dichloromethane as eluent) to give the title compound as a brown/beige solid. Yield: 176 mg (47%). MP 289-290° C. 1H NMR (400 MHz, DMSO-d6): δ 9.24 (s, 1H), 8.29 (d, J=5.6 Hz, 2H), 7.90 (s, 1H), 7.75 (d, J=8.8 Hz, 1H), 7.65 (d, J=8.4 Hz, 1H), 7.38 (s, 2H), 7.03 (d, J=5.2 Hz, 2H), 6.69 (s, 1H), 3.85 (s, 6H). MS (ES+) m/z: 375.13 (M+1).

reactant | 6-Amino-2-(3,5-dimethoxy-phenyl)-3H-quinazolin-4-one | 1.00 mmol, 297 mg | NC=1C=C2C(NC(=NC2=CC1)C1=CC(=CC(=C1)OC)OC)=O | C16H15N3O3
reactant | 4-bromopyridine hydrochloride | 1.00 mmol, 194 mg | Cl.BrC1=CC=NC=C1
reactant | sodium tert-butoxide | 2.40 mmol, 230 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.03 mmol, 17 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-(3,5-Dimethoxyphenyl)-6-(pyridin-4-ylamino)quinazolin-4(3H)-one | COC=1C=C(C=C(C1)OC)C1=NC2=CC=C(C=C2C(N1)=O)NC1=CC=NC=C1 | C21H18N4O3
